US05541229
4'-[(2-(Thiazol-4-yl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-(thiazol-4-yl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid

reactant | tert.butyl 4'-[(2-(thiazol-4-yl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | S1C=NC(=C1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2 | C28H25N3O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(2-(Thiazol-4-yl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | S1C=NC(=C1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C24H17N3O2S
